US09422247B2
A. Pyrimidine-2-ol-1-oxide hydrochloride
0.261 mol (19.85 g) hydroxy urea have been dissolved in 390 ml 1 M HCl and 0.235 mol (51.77 g) 1,1,3,3-tetraethoxypropane were added dropwise under ice cooling, with the internal temperature being maintained at 1-2° C. The solution was thawed in an ice bath to room temperature and stirred over night, then evaporated to dryness. The residue was suspended with 250 ml of acetone, the mixture was cooled in an ice/ethanol bath, the solid filtered off and washed with a little ice-cold acetone. After drying, 24.5 g of crude product were obtained. The crude product was recrystallized with 460 ml of methanol from the boiling heat, cooled in an ice/ethanol bath, filtered off and dried. The mother liquor was concentrated on a rotary evaporator until again product started to precipitate, then a second fraction was crystallized similarly. After drying 11.8 g (1. fraction) and 5.9 g (2. fraction) the title compound were obtained.

reactant | hydroxy urea | 0.261 mol, 19.85 g | ONC(=O)N | CH4N2O2
reactant | 1,1,3,3-tetraethoxypropane | 0.235 mol, 51.77 g | C(C)OC(CC(OCC)OCC)OCC | C11H24O4
reactant | HCl | 1 M, 390 ml | Cl | ClH
product | Pyrimidine-2-ol-1-oxide hydrochloride | 24.5 g | Cl.[N+]=1(C(=NC=CC1)O)[O-] | InChI=1S/C4H4N2O2.ClH/c7-4-5-2-1-3-6(4)8;/h1-3H,(H,5,7);1H
